US07560567B2
Preparation of 2-[3-chloro-5-(trifluoromethyl)-2-pyridinyl]butanenitrile
199 g (0.9 mol) of 3 of [3-chloro-5-(trifluoromethyl)-2-pyridinyl]acetonitrile are dissolved in 3 L of THF at −5° C. A solution of 106 g (0.945 mol) of potassium terbutanoate in 0.6 L of THF is slowly added to the reaction medium. After 2H, 147 g (0.945 mol) of ethyl iodide is added dropwise to the reaction mixture which is stirred overnight at room temperature. 3 L of water and 2 L of ethyl acetate are added to the reaction mixture, after separation, the aqueous phase is extracted twice with 500 mL of ethyl acetate.

reactant | [3-chloro-5-(trifluoromethyl)-2-pyridinyl]acetonitrile | ClC=1C(=NC=C(C1)C(F)(F)F)CC#N | C8H4ClF3N2
reactant | potassium terbutanoate | 0.945 mol, 106 g | C(C(=O)[O-])(C)C.[K+]
reactant | ethyl iodide | 0.945 mol, 147 g | C(C)I | C2H5I
reactant | water | 3 L | O | H2O
solvent | THF | 3 L | C1CCOC1 | C4H8O
solvent | THF | 0.6 L | C1CCOC1 | C4H8O
solvent | ethyl acetate | 2 L | C(C)(=O)OCC | C4H8O2
product | 2-[3-chloro-5-(trifluoromethyl)-2-pyridinyl]butanenitrile | ClC=1C(=NC=C(C1)C(F)(F)F)C(C#N)CC | C10H8ClF3N2
